US04937251
7-[2-(2-Pyridinyl)ethoxy]-2-heptanone
A mixture of 2-[2-[(4-bromobutyl)oxy]ethyl]pyridine (6.2 g), 2,4-pentanedione (3.61 g), potassium carbonate (4.75 g) and potassium iodide (3.95 g) in ethanol (125 ml) was stirred and heated overnight under reflux. The solids were removed by filtration and the filtrate evaporated to leave a dark brown semi-solid. Addition of ether (200 ml) and filtration of the solid produced a brown solution which was evaporated to give a brown oil (4.71 g). Purification by FCC eluting with ether-hexane (1:1→3:1) gave the title compound as a pale yellow oil (1.93 g).

reactant | 2-[2-[(4-bromobutyl)oxy]ethyl]pyridine | 6.2 g | BrCCCCOCCC1=NC=CC=C1 | C11H16BrNO
reactant | 2,4-pentanedione | 3.61 g | CC(CC(C)=O)=O | C5H8O2
reactant | potassium carbonate | 4.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.95 g | [I-].[K+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 7-[2-(2-Pyridinyl)ethoxy]-2-heptanone | 4.71 g | N1=C(C=CC=C1)CCOCCCCCC(C)=O | C14H21NO2
